* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 5.254516e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((3.665541e-02)*u*u + (-2.903583e-01)*u + (-1.865231e+00)),2.131901e+01),2.630987e+02)}
.param L_a = {min(max(exp((-9.111071e-01)*u*u + (-1.663036e+01)*u + (-8.783187e+01)),4.744183e-07),6.464848e-06)}
.param R_pl = {min(max(exp((1.767069e+00)*u*u + (3.050703e+01)*u + (1.355982e+02)),6.188639e+01),2.404873e+05)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((2.446360e-04)*u*u + (4.625936e-03)*u + (2.212261e-02),2.983598e-04),7.120029e-04)}
.param G1 = {min(max((2.880669e-04)*u*u + (6.007308e-03)*u + (3.138164e-02),1.008780e-04),1.379550e-03)}
.param w1 = {min(max(exp((-2.986240e-03)*u*u + (-8.154651e-02)*u + (1.498309e+01)),5.121845e+06),5.502978e+06)}
.param G2 = {min(max((-4.902637e-06)*u*u + (-8.488313e-05)*u + (-3.667663e-04),-2.240109e-05),1.114482e-07)}
.param w2 = {min(max(exp((-6.223970e-01)*u*u + (-1.077604e+01)*u + (-2.583826e+01)),5.873675e+07),1.005000e+09)}
.param G3 = {min(max((-1.455074e-04)*u*u + (-2.519282e-03)*u + (-1.088541e-02),-6.648513e-04),3.307718e-06)}
.param w3 = {min(max(exp((4.502203e-01)*u*u + (7.795010e+00)*u + (5.440425e+01)),9.950249e+08),7.782639e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((-1.140090e-15)*u*u + (-2.064686e-14)*u + (1.450419e+01)),1.981182e+06),2.001044e+06)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-2.307277e-01)*u*u + (-4.549825e+00)*u + (-3.074923e+01)),1.377869e-04),2.081944e-04)}
.param gn1 = {min(max(exp((-3.371286e-02)*u*u + (3.864737e-01)*u + (5.259832e+00)),5.650655e-02),7.712348e-01)}
.param gn2 = {min(max(exp((-3.094395e-02)*u*u + (4.348443e-01)*u + (4.030500e+00)),1.354226e-02),1.827190e-01)}
.param gn3 = {min(max(exp((-4.447383e-02)*u*u + (1.983037e-01)*u + (1.686889e+00)),3.447366e-03),4.917968e-02)}
.param gn4 = {min(max(exp((3.159394e-02)*u*u + (1.515760e+00)*u + (6.486971e+00)),1.990085e-03),2.011189e-02)}
.param gn5 = {min(max(exp((-1.410821e+00)*u*u + (-2.356947e+01)*u + (-1.028152e+02)),2.340401e-06),1.257520e-02)}
.param gn6 = {min(max(exp((-6.493604e+00)*u*u + (-1.173308e+02)*u + (-5.386401e+02)),1.805955e-13),1.780244e-04)}
.param vreg = {min(max((6.501530e-05)*u*u + (-3.958734e-03)*u + (4.844555e-01),5.216963e-01),5.349650e-01)}
.param COUT=4.740328e-10 ESR=2.804111e+01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-2.258578e-02,1.000000e-06,-6.431235e-03,1.300000e-05,-3.058314e-03,2.500000e-05,-1.056614e-03,3.700000e-05,3.768445e-04,4.900000e-05,1.499487e-03,6.100000e-05,2.425425e-03,7.300000e-05,3.215376e-03,8.500000e-05,3.905555e-03,9.700000e-05,4.519330e-03,1.090000e-04,5.072673e-03,1.210000e-04,5.576993e-03,1.330000e-04,6.040727e-03,1.450000e-04,6.470297e-03,1.570000e-04,6.870702e-03,1.690000e-04,7.245914e-03,1.810000e-04,7.599141e-03,1.930000e-04,7.933010e-03,2.050000e-04,8.249705e-03,2.170000e-04,8.551055e-03,2.290000e-04,8.838612e-03,2.410000e-04,9.113703e-03,2.530000e-04,9.377470e-03,2.650000e-04,9.630906e-03,2.770000e-04,9.874878e-03,2.890000e-04,1.011015e-02,3.010000e-04,1.033739e-02,3.130000e-04,1.055719e-02,3.250000e-04,1.077010e-02,3.370000e-04,1.097658e-02,3.490000e-04,1.117707e-02,3.610000e-04,1.137196e-02,3.730000e-04,1.156159e-02,3.850000e-04,1.174629e-02,3.970000e-04,1.192634e-02,4.090000e-04,1.210201e-02,4.210000e-04,1.227355e-02,4.330000e-04,1.244117e-02,4.450000e-04,1.260510e-02,4.570000e-04,1.276550e-02,4.690000e-04,1.292256e-02,4.810000e-04,1.307645e-02,4.930000e-04,1.318144e-02,5.010000e-04,1.342778e-02,5.210000e-04,1.366662e-02,5.410000e-04,1.389849e-02,5.610000e-04,1.412387e-02,5.810000e-04,1.434321e-02,6.010000e-04,1.455689e-02,6.210000e-04,1.476526e-02,6.410000e-04,1.496866e-02,6.610000e-04,1.516736e-02,6.810000e-04,1.536165e-02,7.010000e-04,1.555177e-02,7.210000e-04,1.573795e-02,7.410000e-04,1.592039e-02,7.610000e-04,1.609928e-02,7.810000e-04,1.627482e-02,8.010000e-04,1.644715e-02,8.210000e-04,1.661644e-02,8.410000e-04,1.678283e-02,8.610000e-04,1.694645e-02,8.810000e-04,1.710743e-02,9.010000e-04,1.726588e-02,9.210000e-04,1.742191e-02,9.410000e-04,1.757562e-02,9.610000e-04,1.772711e-02,9.810000e-04,1.787647e-02,1.001000e-03,1.802379e-02,1.021000e-03,1.816914e-02,1.041000e-03,1.831261e-02,1.061000e-03,1.845425e-02,1.081000e-03,1.859415e-02,1.101000e-03,1.873236e-02,1.121000e-03,1.886894e-02,1.141000e-03,1.900395e-02,1.161000e-03,1.913746e-02,1.181000e-03,1.926950e-02,1.201000e-03,1.940013e-02,1.221000e-03,1.952940e-02,1.241000e-03,1.965734e-02,1.261000e-03,1.978402e-02,1.281000e-03,1.990945e-02,1.301000e-03,2.003369e-02,1.321000e-03,2.015677e-02,1.341000e-03,2.027873e-02,1.361000e-03,2.039960e-02,1.381000e-03,2.051941e-02,1.401000e-03,2.063820e-02,1.421000e-03,2.075600e-02,1.441000e-03,2.087283e-02,1.461000e-03,2.098872e-02,1.481000e-03,2.110370e-02,1.501000e-03,2.121780e-02,1.521000e-03,2.133104e-02,1.541000e-03,2.144344e-02,1.561000e-03,2.155503e-02,1.581000e-03,2.166582e-02,1.601000e-03,2.177585e-02,1.621000e-03,2.188513e-02,1.641000e-03,2.199368e-02,1.661000e-03,2.210152e-02,1.681000e-03,2.220867e-02,1.701000e-03,2.231514e-02,1.721000e-03,2.242096e-02,1.741000e-03,2.252614e-02,1.761000e-03,2.263069e-02,1.781000e-03,2.273464e-02,1.801000e-03,2.283800e-02,1.821000e-03,2.294078e-02,1.841000e-03,2.304299e-02,1.861000e-03,2.314466e-02,1.881000e-03,2.324579e-02,1.901000e-03,2.334640e-02,1.921000e-03,2.344649e-02,1.941000e-03,2.354609e-02,1.961000e-03,2.364521e-02,1.981000e-03,2.374385e-02,2.001000e-03,2.384203e-02,2.021000e-03,2.393975e-02,2.041000e-03,2.403704e-02,2.061000e-03,2.413389e-02,2.081000e-03,2.423033e-02,2.101000e-03,2.432635e-02,2.121000e-03,2.442197e-02,2.141000e-03,2.451720e-02,2.161000e-03,2.461205e-02,2.181000e-03,2.470653e-02,2.201000e-03,2.480064e-02,2.221000e-03,2.489440e-02,2.241000e-03,2.498780e-02,2.261000e-03,2.508087e-02,2.281000e-03,2.517361e-02,2.301000e-03,2.526602e-02,2.321000e-03,2.535812e-02,2.341000e-03,2.544990e-02,2.361000e-03,2.554139e-02,2.381000e-03,2.563258e-02,2.401000e-03,2.572348e-02,2.421000e-03,2.581410e-02,2.441000e-03,2.590445e-02,2.461000e-03,2.599452e-02,2.481000e-03,2.608434e-02,2.501000e-03,2.617390e-02,2.521000e-03,2.626322e-02,2.541000e-03,2.635228e-02,2.561000e-03,2.644112e-02,2.581000e-03,2.652972e-02,2.601000e-03,2.661809e-02,2.621000e-03,2.670624e-02,2.641000e-03,2.679418e-02,2.661000e-03,2.688191e-02,2.681000e-03,2.696944e-02,2.701000e-03,2.705676e-02,2.721000e-03,2.714389e-02,2.741000e-03,2.723083e-02,2.761000e-03,2.731759e-02,2.781000e-03,2.740417e-02,2.801000e-03,2.749057e-02,2.821000e-03,2.757680e-02,2.841000e-03,2.766287e-02,2.861000e-03,2.774877e-02,2.881000e-03,2.783452e-02,2.901000e-03,2.792012e-02,2.921000e-03,2.800556e-02,2.941000e-03,2.809087e-02,2.961000e-03,2.817603e-02,2.981000e-03,2.826106e-02,3.001000e-03,2.834595e-02,3.021000e-03,2.843072e-02,3.041000e-03,2.851537e-02,3.061000e-03,2.859989e-02,3.081000e-03,2.868430e-02,3.101000e-03,2.876859e-02,3.121000e-03,2.885278e-02,3.141000e-03,2.893686e-02,3.161000e-03,2.902084e-02,3.181000e-03,2.910473e-02,3.201000e-03,2.918851e-02,3.221000e-03,2.927221e-02,3.241000e-03,2.935582e-02,3.261000e-03,2.943935e-02,3.281000e-03,2.952279e-02,3.301000e-03,2.960616e-02,3.321000e-03,2.968945e-02,3.341000e-03,2.977267e-02,3.361000e-03,2.985583e-02,3.381000e-03,2.993892e-02,3.401000e-03,3.002195e-02,3.421000e-03,3.010492e-02,3.441000e-03,3.018783e-02,3.461000e-03,3.027069e-02,3.481000e-03,3.035350e-02,3.501000e-03,3.043627e-02,3.521000e-03,3.051899e-02,3.541000e-03,3.060168e-02,3.561000e-03,3.068432e-02,3.581000e-03,3.076693e-02,3.601000e-03,3.084951e-02,3.621000e-03,3.093205e-02,3.641000e-03,3.101458e-02,3.661000e-03,3.109707e-02,3.681000e-03,3.117955e-02,3.701000e-03,3.126201e-02,3.721000e-03,3.134445e-02,3.741000e-03,3.142688e-02,3.761000e-03,3.150930e-02,3.781000e-03,3.159172e-02,3.801000e-03,3.167412e-02,3.821000e-03,3.175653e-02,3.841000e-03,3.183893e-02,3.861000e-03,3.192134e-02,3.881000e-03,3.200375e-02,3.901000e-03,3.208617e-02,3.921000e-03,3.216860e-02,3.941000e-03,3.225104e-02,3.961000e-03,3.233350e-02,3.981000e-03,3.241597e-02,4.001000e-03,3.249846e-02,4.021000e-03,3.258098e-02,4.041000e-03,3.266352e-02,4.061000e-03,3.274608e-02,4.081000e-03,3.282868e-02,4.101000e-03,3.291131e-02,4.121000e-03,3.299397e-02,4.141000e-03,3.307666e-02,4.161000e-03,3.315940e-02,4.181000e-03,3.324217e-02,4.201000e-03,3.332499e-02,4.221000e-03,3.340786e-02,4.241000e-03,3.349077e-02,4.261000e-03,3.357373e-02,4.281000e-03,3.365674e-02,4.301000e-03,3.373980e-02,4.321000e-03,3.382293e-02,4.341000e-03,3.390611e-02,4.361000e-03,3.398935e-02,4.381000e-03,3.407265e-02,4.401000e-03,3.415602e-02,4.421000e-03,3.423945e-02,4.441000e-03,3.432296e-02,4.461000e-03,3.440653e-02,4.481000e-03,3.449018e-02,4.501000e-03,3.457390e-02,4.521000e-03,3.465770e-02,4.541000e-03,3.474158e-02,4.561000e-03,3.482554e-02,4.581000e-03,3.490959e-02,4.601000e-03,3.499372e-02,4.621000e-03,3.507793e-02,4.641000e-03,3.516224e-02,4.661000e-03,3.524664e-02,4.681000e-03,3.533113e-02,4.701000e-03,3.541572e-02,4.721000e-03,3.550040e-02,4.741000e-03,3.558519e-02,4.761000e-03,3.567007e-02,4.781000e-03,3.575506e-02,4.801000e-03,3.584016e-02,4.821000e-03,3.592536e-02,4.841000e-03,3.601067e-02,4.861000e-03,3.609609e-02,4.881000e-03,3.618163e-02,4.901000e-03,3.626727e-02,4.921000e-03,3.635304e-02,4.941000e-03,3.643893e-02,4.961000e-03,3.652493e-02,4.981000e-03,3.661106e-02,5.001000e-03,3.669731e-02,5.021000e-03,3.678369e-02,5.041000e-03,3.687019e-02,5.061000e-03,3.695683e-02,5.081000e-03,3.704360e-02,5.101000e-03,3.713050e-02,5.121000e-03,3.721753e-02,5.141000e-03,3.730471e-02,5.161000e-03,3.739202e-02,5.181000e-03,3.747947e-02,5.201000e-03,3.756707e-02,5.221000e-03,3.765480e-02,5.241000e-03,3.774269e-02,5.261000e-03,3.783072e-02,5.281000e-03,3.791890e-02,5.301000e-03,3.800724e-02,5.321000e-03,3.809572e-02,5.341000e-03,3.818437e-02,5.361000e-03,3.827316e-02,5.381000e-03,3.836212e-02,5.401000e-03,3.845123e-02,5.421000e-03,3.854051e-02,5.441000e-03,3.862995e-02,5.461000e-03,3.871955e-02,5.481000e-03,3.880933e-02,5.501000e-03,3.889927e-02,5.521000e-03,3.898937e-02,5.541000e-03,3.907966e-02,5.561000e-03,3.917011e-02,5.581000e-03,3.926074e-02,5.601000e-03,3.935154e-02,5.621000e-03,3.944253e-02,5.641000e-03,3.953369e-02,5.661000e-03,3.962503e-02,5.681000e-03,3.971656e-02,5.701000e-03,3.980827e-02,5.721000e-03,3.990017e-02,5.741000e-03,3.999225e-02,5.761000e-03,4.008453e-02,5.781000e-03,4.017699e-02,5.801000e-03,4.026965e-02,5.821000e-03,4.036250e-02,5.841000e-03,4.045554e-02,5.861000e-03,4.054878e-02,5.881000e-03,4.064222e-02,5.901000e-03,4.073586e-02,5.921000e-03,4.082971e-02,5.941000e-03,4.092375e-02,5.961000e-03,4.101800e-02,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 8.075806e-09        $ corner 19.71 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 5.241373e-10        $ corner 303.7 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 3.282428e-11        $ corner 4849 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 2.382293e-13        $ corner 6.681e+05 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 1.123553e-13        $ corner 1.417e+06 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 1.054076e-14        $ corner 1.51e+07 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

